US07759383B2
1′-METHYL-2′-(2-METHYL-PROPENYL)-4′-PHENYL-1H-SPIRO[INDOLE-3,3′-PYRROLIDIN]-2-ONE (KE-13)
A mixture of 3-E-3-benzylidene-1,3-dihydro-indol-2-one (10.0 mmol), N-methyl-glycine (14 mmol) and 3-methyl-but-2-enal (14 mmol) in 100 mL toluene was refluxed for 6 hours. The solvent was removed and the residue was purified on silica gel column to yield the product.

reactant | 3-E-3-benzylidene-1,3-dihydro-indol-2-one | 10.0 mmol | C(/C1=CC=CC=C1)=C/1\C(NC2=CC=CC=C12)=O | C15H11NO
reactant | N-methyl-glycine | 14 mmol | CNCC(=O)O | C3H7NO2
reactant | 3-methyl-but-2-enal | 14 mmol | CC(=CC=O)C | C5H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1′-METHYL-2′-(2-METHYL-PROPENYL)-4′-PHENYL-1H-SPIRO[INDOLE-3,3′-PYRROLIDIN]-2-ONE | CN1C(C2(C(C1)C1=CC=CC=C1)C(NC1=CC=CC=C12)=O)C=C(C)C | C22H24N2O
